2196-11-14 09:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 y.o. man with pulmonary asbestosis, a-fib, retroeritoneal fibrosis,
   left common femoral vein DVT, chylous effuison s/p thorocentesis x 2.
   24 Hour Events:
 BLOOD CULTURED - At [**2196-11-13**] 09:30 PM
 URINE CULTURE - At [**2196-11-13**] 09:30 PM
 EKG - At [**2196-11-14**] 04:40 AM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-11-14**] 01:23 AM
   Vancomycin - [**2196-11-14**] 08:42 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Heparin Sodium - [**2196-11-13**] 10:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: soft formed stool yesterday
   Genitourinary: Foley
   Integumentary (skin): Rash
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-11-14**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 71 (57 - 73) bpm
   BP: 114/62(75) {94/46(55) - 153/64(79)} mmHg
   RR: 31 (18 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 91 kg
   Height: 67 Inch
   Bladder pressure: 6 (6 - 6) mmHg
   Total In:
                                                                    791 mL
                                                                    721 mL
   PO:
   TF:
   IVF:
                                                                    791 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    250 mL
   Urine:
                                                                    820 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -29 mL
                                                                    471 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.40/52/84.[**Numeric Identifier 1132**]/32/5
   PaO2 / FiO2: 105
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered bilaterally, Diminished: bases )
   Abdominal: Soft, Non-tender, Bowel sounds present, large ventral
   hernia; inguinal hernias
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Rash: macular rash abdomen, groind/thigh R>L
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   420 K/uL
   131 mg/dL
   1.9 mg/dL
   32 mEq/L
   4.7 mEq/L
   34 mg/dL
   105 mEq/L
   144 mEq/L
   32.0 %
   10.9 K/uL
        [image002.jpg]
                             [**2196-11-13**]  05:20 PM
                             [**2196-11-13**]  07:38 PM
                             [**2196-11-13**]  09:30 PM
                             [**2196-11-14**]  04:37 AM
   WBC
   11.4
   10.9
   Hct
   34.1
   32.0
   Plt
   455
   420
   Cr
   1.9
   TCO2
   36
   33
   Glucose
   131
   Other labs: PT / PTT / INR:/150.0/, Differential-Neuts:84.7 %,
   Lymph:4.4 %, Mono:7.8 %, Eos:2.9 %, Lactic Acid:1.4 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: Ascites:  WBC 740, 8 pmns  alb-2.1
   Imaging: CXR:  no PTX, persistent right effusion albeit decreased, area
   of confluence right mid/lower lung (new since [**11-1**])
   Microbiology: No new culture data
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY:  On IV heparin,
   supratherapeutic PTT, held for one hour and decreased heparin drip to
   1350/hr. Repeat PTT per protocol.
  HYPOXIC RESPIRATORY FAILURE:  Respiratory status improved following
   large volume thorocentesis, FiO2 down to 6L NC. On vanco/cefipime.  IP
   following, decision made yesterday to hold off on pigtail catheter,
   will follow for rate of reaccumulation of pleural fluid. Consider
   repeat CT chest to evaluate opacity in right lung on CXR.
  CELLULITIS:  On antibiotics as above.  Dermatology consult
   appreciated, following recommendations for triamcinalone cream.
 ASCITES:  Had been treated for SBP earlier in his hospital course.
   Repeat labsnot c/w peritonitis.  No further drainage at this time
   indicated.
 ATRIAL FIBRILLATION: Holding rate control meds in setting of earlier
   hypotension.  Will restart these.
 NUTRITION:  Per GI recommendations will change diet in light of
   chylous effusion/ascites. Consider octreotide.
 ACUTE ON CHRONIC RENAL FAILURE:  In setting of volume depletion and
   hypotension, possible component of ATN vs. prerenal.  Improving urine
   output and Cr with volume resusitation.  Dose meds accordingly.
 ANEMIA:  Hct stable. [**Month (only) 11**] have anemia of chronic disease.
 DIARRHEA:  Soft formed stool yesterday, intiial C.Diff negative.
   Immodium prn.
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-11-13**] 05:20 PM
   20 Gauge - [**2196-11-13**] 09:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2196-11-15 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -markedly improved on exam this AM, speaking (quite garrulous actually)
   in full sentences
   -spu cx, f/u micro (if no growth, d/c abx)
   - t/b w/ IP re: imaging, f/u imaging
   - f/u GI recs, AM PTT
   - rate-control, t/b derm re: rash
   - derm sez "what is inpatient?" = d/c all abx cuz it could be a drug
   rash(we [**Last Name (un) **] tx infx anyway, no pna) so we got rid of all abx
   - staying on our service for pigtail catheter by IP in the AM ([**Name6 (MD) 8444**]
   [**Name8 (MD) 8445**] MD)
   - d/c'd heparin gtt at [**2187**] as per IP recs for procedure
   - code brown circa 2100
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-11-14**] 01:23 AM
   Vancomycin - [**2196-11-14**] 08:42 AM
   Ciprofloxacin - [**2196-11-14**] 05:54 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-11-14**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-15**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 85 (71 - 103) bpm
   BP: 122/56(72) {99/54(64) - 129/76(113)} mmHg
   RR: 28 (16 - 38) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 91 kg
   Height: 67 Inch
             Total In:
                                                                  2,348 mL
                                                                     73 mL
   PO:
                                                                  1,100 mL
             TF:
   IVF:
                                                                  1,248 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    305 mL
   Urine:
                                                                    620 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,728 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///29/
   Physical Examination
   GENERAL: Awake, alert, no respiratory distress.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**]
   LUNGS: Decreased breath sounds at bases.
   ABDOMEN: large ventral hernia, multiple large other hernias. NT, ND.
   +bs.
   EXTREMITIES: 2+ LLE edema. Trace to 1+ RLE edema.
   GU: very large scrotal hernia and scrotal edema
   SKIN: erythematous macular rash on abdomen and back
   NEURO: A&Ox3.
   Labs / Radiology
   424 K/uL
   10.9 g/dL
   107 mg/dL
   1.9 mg/dL
   29 mEq/L
   4.9 mEq/L
   33 mg/dL
   104 mEq/L
   140 mEq/L
   34.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2196-11-13**]  05:20 PM
                             [**2196-11-13**]  07:38 PM
                             [**2196-11-13**]  09:30 PM
                             [**2196-11-14**]  04:37 AM
                            [**2196-11-15**]  04:36 AM
   WBC
   11.4
   10.9
   11.6
   Hct
   34.1
   32.0
   34.8
   Plt
   455
   420
   424
   Cr
   1.9
   1.9
   TCO2
   36
   33
   Glucose
   131
   107
   Other labs: PT / PTT / INR:14.8/26.2/1.3, Amylase / Lipase:39/9,
   Differential-Neuts:84.7 %, Lymph:4.4 %, Mono:7.8 %, Eos:2.9 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  The pt is a 78 yo male with pulmonary asbestosis,
   retroperitoneal fibrosis, DVT, a fib, new chylous ascities and pleural
   effusion who presented to the [**Hospital Unit Name 10**] in respiratory distress.  He is now
   s/p thoracentesis and new onset hypothermia and hypotension.
   .
   #. Respiratory distress: Likely due to re-accumulated pleural effusion
   and compressive atelectasis. Last tap was [**2196-11-10**] and then was repeated
   on admission to the [**Hospital Unit Name 10**].  Now s/p 2 L tap (no PTX on CXR) with no
   pigtail placed in hopes of not worsening nutrition given unknown
   etiology of chylous fluid. Also could be due to ground glass opacities
   (infectious vs inflammatory) on CT scan from [**2196-10-12**].
   -follow up pleural fluid cytology, flow cytology, culture
   -started on cefepime and vancomycin for ? HAP especially given ground
   glass opacity, hypothermia on arrival, hypoxia, and hypotension
   -send sputum culture
   -f/u culture results
   -incentive spirometry
   .
   #. Chylous ascities/pleural fluid: Etiology of chylous pleural
   effusion/ascities likely RP fibrosis and lymphatic obstruction.  DDX
   includes infection, malignancy, trauma to lymphatic system.  Pt treated
   for SBP with last dose of CTX on [**2196-11-9**].
   -GI following
   -pulm recs PET CT
   -consider MRI of pancreas once ARF improved
   -nutrition consult for diet to reduce formation of chylous effusion
   -consider octreotide trial
   -daily weights
   .
   #. DVT: restarted heparin gtt, currently supratherapeutic
   -follow PTT and dose heparin appropriately
   .
   #. Hypotension: Had SBP 80s-90s overnight, responsive to fluid
   boluses.  Likely related to post-procedural fluid shifts. No evidence
   of pneumothorax. Hct stable. Will need to consider PE in setting of
   known DVT if hypotension persists.  Low suspicion for sepsis.
   -ensure 2 large bore peripherals; trend Hct, maintain active T+S
   -holding home rate control/BP meds
   .
   #. A fib:
   -heparin for now given procedures
   -hold rate control given hypotensive after thoracentesis
   .
   #. Acute on chronic renal failure: Pre-renal vs. renal etiology.  U/S
   yesterday with no obstruction but suboptimal given pt cannot hold a
   deep breath.  Will need to consider whether it is possible that
   retroperitoneal fibrosis could be related to renal failure.
   -trend creatinine
   -appreciate renal recs
   -consider repeat renal u/s if pt can hold breath in AM
   -bladder pressure checked and normal
   -check urine lytes
   .
   #. Scrotal cellulitis: s/p 10 day tx of vancomycin now resolved.
   Finished vancomycin course on [**11-11**]
   -continue topical antifungal tx
   .
   #. Diarrhea: improved on loperamide. C diff neg x1.
   -continue to monitor
   -no bowel regimen
   .
   #. Hernias: No signs of strangulation.
   -no surgical plans at this time
   .
   #. Rash:
   -continue triamcinolone [**Hospital1 **]
   ICU Care
   Nutrition: high protein and low fat diet with medium chain TG to reduce
   formation of chylous ascities in AM
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-11-13**] 05:20 PM
   20 Gauge - [**2196-11-13**] 09:30 PM
   Prophylaxis:
   DVT: on hep gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  -HCP is wife [**Telephone/Fax (1) 9194**] (cell),
   [**Telephone/Fax (1) 9195**]
   -spoke with daughter [**Name (NI) 1271**] tonight [**Telephone/Fax (1) 9196**] (cell) and [**Telephone/Fax (1) 9197**]
   (home)
   Code status: Full code confirmed with patient
   Disposition: Likely call out to floor

2196-11-15 11:48:00 Physician Attending Progress Note
Chief Complaint: shortness of breath, large chylous pleural effusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 y.o. man with pulmonary asbestosis, a-fib, retroeritoneal fibrosis,
   left common femoral vein DVT, chylous effuison s/p thorocentesis x 2.
   24 Hour Events:
   Discontinued antibiotics last evening given negative cultures,
   worsening rash
   Heparin held
   Pigtail catheter placed by IP, 2 L chylous fluid drained
   Less dyspneic and tachypneic once fluid drained
   Noted mild pain at catheter insertion site, minimal splinting
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-11-14**] 01:23 AM
   Vancomycin - [**2196-11-14**] 08:42 AM
   Ciprofloxacin - [**2196-11-14**] 05:54 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**1-8**] Minimal
   Flowsheet Data as of  [**2196-11-15**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 94 (77 - 103) bpm
   BP: 98/63(86) {93/55(67) - 129/78(113)} mmHg
   RR: 33 (16 - 38) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 91 kg
   Height: 68 Inch
             Total In:
                                                                  2,348 mL
                                                                     79 mL
   PO:
                                                                  1,100 mL
             TF:
   IVF:
                                                                  1,248 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                  2,410 mL
   Urine:
                                                                    620 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,728 mL
                                                                 -2,331 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: right [**1-10**] way up)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Rash: stable
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   424 K/uL
   107 mg/dL
   1.9 mg/dL
   29 mEq/L
   4.9 mEq/L
   33 mg/dL
   104 mEq/L
   140 mEq/L
   34.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2196-11-13**]  05:20 PM
                             [**2196-11-13**]  07:38 PM
                             [**2196-11-13**]  09:30 PM
                             [**2196-11-14**]  04:37 AM
                            [**2196-11-15**]  04:36 AM
   WBC
   11.4
   10.9
   11.6
   Hct
   34.1
   32.0
   34.8
   Plt
   455
   420
   424
   Cr
   1.9
   1.9
   TCO2
   36
   33
   Glucose
   131
   107
   Other labs: PT / PTT / INR:14.8/26.2/1.3, Amylase / Lipase:39/9,
   Differential-Neuts:84.7 %, Lymph:4.4 %, Mono:7.8 %, Eos:2.9 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY:  Heparin held in
   setting of procedure.  Restart.
 HYPOXEMIA/RESPIRATORY FAILURE:  Large chylous pleural effusion now
   s/p pigtail catheter placement. unclear etiology, ?malignancy vs.
   underlying fibrosis.  Fluid sent for cytology.
 RASH: More consistent with drug eruption, had stopped antibiotics
   last evening given negative cultures.  Rash unchanged today.
 ACUTE ON CHRONIC RENAL INSUFFICIENCY:  Cr stable at 1.9, elevated
   above his baseline.  FeNA 0.1.  Prerenal component.  Encourage po
   intake and follow labs.  Renal US with dopplers.
 ANEMIA:  Stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-11-13**] 05:20 PM
   20 Gauge - [**2196-11-14**] 11:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Time spent on above:  25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2196-11-15**] 15:02 ------

2196-11-15 19:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Was not called out yesterday due to persistent tachypnea, low O2 sats
   on 6L NC, reaccumulation of fluid on CT.
   - Pt. seen by derm; rash likely caused by cephalosporins.  All Abx were
   d/c
d as all cultures have been negative.
   - Scheduled for pigtail catheter placement by IP in the AM ([**Name6 (MD) 8444**]
   [**Name8 (MD) 8445**] MD)
   - Heparin gtt d/c
d at [**2187**] as per IP recs for procedure
   - The patient had a bowel movement
   Improved on exam this AM, speaking in full sentences, much less
   tachypneic.  Rash improved from yesterday,
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-11-14**] 01:23 AM
   Vancomycin - [**2196-11-14**] 08:42 AM
   Ciprofloxacin - [**2196-11-14**] 05:54 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-11-14**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-15**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 85 (71 - 103) bpm
   BP: 122/56(72) {99/54(64) - 129/76(113)} mmHg
   RR: 28 (16 - 38) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 91 kg
   Height: 67 Inch
             Total In:
                                                                  2,348 mL
                                                                     73 mL
   PO:
                                                                  1,100 mL
             TF:
   IVF:
                                                                  1,248 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    305 mL
   Urine:
                                                                    620 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,728 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91% on 6L NC
   ABG: ///29/
   Physical Examination
   GENERAL: Awake, alert, no respiratory distress.  Able to speak full
   sentences.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**]
   LUNGS: Decreased breath sounds at bases.
   ABDOMEN: large ventral hernia, multiple large other hernias. NT, ND.
   +bs.
   EXTREMITIES: 2+ LLE edema. Trace to 1+ RLE edema.
   GU: very large scrotal hernia and scrotal edema
   SKIN: erythematous macular rash on abdomen and back, improved from
   yesterday.
   NEURO: A&Ox3.
   Labs / Radiology
   424 K/uL
   10.9 g/dL
   107 mg/dL
   1.9 mg/dL
   29 mEq/L
   4.9 mEq/L
   33 mg/dL
   104 mEq/L
   140 mEq/L
   34.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2196-11-13**]  05:20 PM
                             [**2196-11-13**]  07:38 PM
                             [**2196-11-13**]  09:30 PM
                             [**2196-11-14**]  04:37 AM
                            [**2196-11-15**]  04:36 AM
   WBC
   11.4
   10.9
   11.6
   Hct
   34.1
   32.0
   34.8
   Plt
   455
   420
   424
   Cr
   1.9
   1.9
   TCO2
   36
   33
   Glucose
   131
   107
   Other labs: PT / PTT / INR:14.8/26.2/1.3, Amylase / Lipase:39/9,
   Differential-Neuts:84.7 %, Lymph:4.4 %, Mono:7.8 %, Eos:2.9 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Urine Cx negative
   Blood Cx: pending
   Pleural Fluid: 1+ PMNs , no microorg.  Cx pending.
   Assessment and Plan
   ASSESSMENT AND PLAN:  The pt is a 78 yo male with pulmonary asbestosis,
   retroperitoneal fibrosis, DVT, a fib, new chylous ascities and pleural
   effusion who presented to the [**Hospital Unit Name 10**] in respiratory distress.  He is now
   s/p thoracentesis and new onset hypothermia and hypotension.
   .
   #. Respiratory distress: Likely due to re-accumulated pleural effusion
   and compressive atelectasis. Last tap was [**2196-11-10**] and then was repeated
   on admission to the [**Hospital Unit Name 10**].  Now s/p 2 L tap (no PTX on CXR) with no
   pigtail placed in hopes of not worsening nutrition given unknown
   etiology of chylous fluid. Also could be due to ground glass opacities
   (infectious vs inflammatory) on CT scan from [**2196-10-12**].  All Abxc d/c
   -Pigtail catheter placement today by IP.  Send fluid to cytology.
   -follow up pleural fluid cytology, flow cytology, culture
   -f/u culture results
   -incentive spirometry
   .
   #. Chylous ascities/pleural fluid: Etiology of chylous pleural
   effusion/ascities likely RP fibrosis and lymphatic obstruction.  DDX
   includes infection, malignancy, trauma to lymphatic system.  Pt treated
   for SBP with last dose of CTX on [**2196-11-9**].
   -F/u GI recs
   -Per GI, consider MRI of pancreas once ARF improved
   -continue
   -daily weights
   .
   #. DVT: restarted heparin gtt, currently supratherapeutic
   -follow PTT and dose heparin appropriately
   .
   #. Hypotension: Resolved, likely related to post-procedural fluid
   shifts. No evidence of pneumothorax. Hct stable. Will need to consider
   PE in setting of known DVT if hypotension persists.  Low suspicion for
   sepsis.
   -ensure 2 large bore peripherals; trend Hct, maintain active T+S
   -holding home rate control/BP meds
   .
   #. A fib:
   -Holding heparin gtt for procedure today; re-start after procedure
   -hold rate control given hypotensive after thoracentesis
   .
   #. Acute on chronic renal failure: FeNa c/w pre-renal etiology.  Cr
   stable.
   -trend creatinine
   -appreciate continued renal recs
   -Repeat renal U/S with Dopplers
   -bladder pressure checked and normal
   .
   #. Scrotal cellulitis: s/p 10 day tx of vancomycin now resolved.
   Finished vancomycin course on [**11-11**]
   -continue topical antifungal tx
   .
   #. Diarrhea: improved on loperamide. C diff neg x1.
   -continue to monitor
   -no bowel regimen
   .
   #. Hernias: No signs of strangulation.
   -no surgical plans at this time
   .
   #. Rash: improving, likely secondary to Abx use.  Currently off Abx.
   -continue triamcinolone [**Hospital1 **]
   ICU Care
   Nutrition: high protein and low fat diet with medium chain TG
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-11-13**] 05:20 PM
   20 Gauge - [**2196-11-13**] 09:30 PM
   Prophylaxis:
   DVT: hep gtt (held)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  -HCP is wife [**Telephone/Fax (1) 9194**] (cell),
   [**Telephone/Fax (1) 9195**]
   -spoke with daughter [**Name (NI) 1271**] tonight [**Telephone/Fax (1) 9196**] (cell) and [**Telephone/Fax (1) 9197**]
   (home)
   Code status: Full code confirmed with patient
   Disposition: Likely call out to floor

2196-11-16 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2196-11-15**] 10:21 AM\
 ULTRASOUND - At [**2196-11-15**] 04:14 PM
   renal ultrasound
   -Underwent pigtail catheter placement, 2L came out.  Sent to cytology.
   CXR shows improvement of R pleural effusion
   -The patient still tachypneic and requiring 6L NC, and was hypotensive
   O/N so decision was made to keep him in [**Hospital Unit Name 10**] overnight.
   -Renal U/S with Doppler done
   -PTT very erratic on Heparin gtt.  Went from PTT 150 to
   subtherapautic.  Now getting bolus [**2187**], then 1100.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-11-14**] 01:23 AM
   Vancomycin - [**2196-11-14**] 08:42 AM
   Ciprofloxacin - [**2196-11-14**] 05:54 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-16**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 99 (85 - 110) bpm
   BP: 73/50(56) {73/50(56) - 117/78(86)} mmHg
   RR: 22 (14 - 39) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 91 kg
   Height: 68 Inch
             Total In:
                                                                    704 mL
                                                                    777 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                    704 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                    499 mL
   Urine:
                                                                    695 mL
                                                                     99 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,131 mL
                                                                    278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   GENERAL: Awake, alert, no respiratory distress.  Able to speak full
   sentences.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**]
   LUNGS: Decreased breath sounds at bases.
   ABDOMEN: large ventral hernia, multiple large other hernias. NT, ND.
   +bs.
   EXTREMITIES: 2+ LLE edema. Trace to 1+ RLE edema.
   GU: very large scrotal hernia and scrotal edema
   SKIN: erythematous macular rash on abdomen and back, improved from
   yesterday.
   NEURO: A&Ox3.
   Labs / Radiology
   411 K/uL
   10.5 g/dL
   131 mg/dL
   2.1 mg/dL
   28 mEq/L
   5.1 mEq/L
   40 mg/dL
   102 mEq/L
   136 mEq/L
   32.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2196-11-13**]  05:20 PM
                             [**2196-11-13**]  07:38 PM
                             [**2196-11-13**]  09:30 PM
                             [**2196-11-14**]  04:37 AM
                            [**2196-11-15**]  04:36 AM
                            [**2196-11-16**]  04:38 AM
   WBC
   11.4
   10.9
   11.6
   12.3
   Hct
   34.1
   32.0
   34.8
   32.3
   Plt
   455
   420
   424
   411
   Cr
   1.9
   1.9
   2.1
   TCO2
   36
   33
   Glucose
   131
   107
   131
   Other labs: PT / PTT / INR:14.8/36.3/1.3, Amylase / Lipase:39/9,
   Differential-Neuts:84.7 %, Lymph:4.4 %, Mono:7.8 %, Eos:2.9 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   IMAGING: Renal Doppler U/S
 normal right kidney
   Assessment and Plan
   ASSESSMENT AND PLAN:  Mr. [**Known lastname **] is a 78 yo male with pulmonary
   asbestosis, retroperitoneal fibrosis, DVT, a fib, new chylous ascities
   and pleural effusion who presented to the [**Hospital Unit Name 10**] in respiratory
   distress.  He is now s/p pigtail catheter placement for drainage of
   chylous pleural fluid and new onset hypothermia and hypotension.
   .
   #. Respiratory distress: Likely due to re-accumulated pleural effusion
   and compressive atelectasis. Last tap was [**2196-11-10**] and then was repeated
   on admission to the [**Hospital Unit Name 10**].  Now s/p 2 L tap (no PTX on CXR) with no
   pigtail placed in hopes of not worsening nutrition given unknown
   etiology of chylous fluid. Also could be due to ground glass opacities
   (infectious vs inflammatory) on CT scan from [**2196-10-12**].  All Abxc d/c
   -Pigtail catheter placement today by IP.  Send fluid to cytology.
   -follow up pleural fluid cytology, flow cytology, culture
   -f/u culture results
   -incentive spirometry
   .
   #. Chylous ascities/pleural fluid: Etiology of chylous pleural
   effusion/ascities likely RP fibrosis and lymphatic obstruction.  DDX
   includes infection, malignancy, trauma to lymphatic system.  Pt treated
   for SBP with last dose of CTX on [**2196-11-9**].
   -F/u GI recs
   -Per GI, consider MRI of pancreas once ARF improved
   -continue
   -daily weights
   .
   #. DVT: restarted heparin gtt, currently supratherapeutic
   -follow PTT and dose heparin appropriately
   .
   #. Hypotension: Resolved, likely related to post-procedural fluid
   shifts. No evidence of pneumothorax. Hct stable. Will need to consider
   PE in setting of known DVT if hypotension persists.  Low suspicion for
   sepsis.
   -ensure 2 large bore peripherals; trend Hct, maintain active T+S
   -holding home rate control/BP meds
   .
   #. A fib:
   -Holding heparin gtt for procedure today; re-start after procedure
   -hold rate control given hypotensive after thoracentesis
   .
   #. Acute on chronic renal failure: FeNa c/w pre-renal etiology.  Cr
   stable.
   -trend creatinine
   -appreciate continued renal recs
   -Repeat renal U/S with Dopplers
   -bladder pressure checked and normal
   .
   #. Scrotal cellulitis: s/p 10 day tx of vancomycin now resolved.
   Finished vancomycin course on [**11-11**]
   -continue topical antifungal tx
   .
   #. Diarrhea: improved on loperamide. C diff neg x1.
   -continue to monitor
   -no bowel regimen
   .
   #. Hernias: No signs of strangulation.
   -no surgical plans at this time
   .
   #. Rash: improving, likely secondary to Abx use.  Currently off Abx.
   -continue triamcinolone [**Hospital1 **]
   ICU Care
   Nutrition: high protein and low fat diet with medium chain TG
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-11-13**] 05:20 PM
   20 Gauge - [**2196-11-13**] 09:30 PM
   Prophylaxis:
   DVT: hep gtt started
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  -HCP is wife [**Telephone/Fax (1) 9194**] (cell),
   [**Telephone/Fax (1) 9195**]
   -spoke with daughter [**Name (NI) 1271**] tonight [**Telephone/Fax (1) 9196**] (cell) and [**Telephone/Fax (1) 9197**]
   (home)
   Code status: FULL CODE confirmed with patient
   Disposition: Likely call out to floor

2196-11-16 12:08:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2196-11-15**] 10:21 AM
 ULTRASOUND - At [**2196-11-15**] 04:14 PM
   renal ultrasound
   Intermittently  hypotensive after placement of pigtail catheter and
   large volume pleural fluid removal;  responsive to IVFs
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-11-14**] 01:23 AM
   Vancomycin - [**2196-11-14**] 08:42 AM
   Ciprofloxacin - [**2196-11-14**] 05:54 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-11-16**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 97 (85 - 110) bpm
   BP: 85/50(58) {71/37(46) - 117/68(96)} mmHg
   RR: 29 (14 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.5 kg (admission): 91 kg
   Height: 68 Inch
             Total In:
                                                                    704 mL
                                                                  1,481 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                    704 mL
                                                                  1,281 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                    782 mL
   Urine:
                                                                    695 mL
                                                                    157 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,131 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases), better air
   movement on right
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   411 K/uL
   131 mg/dL
   2.1 mg/dL
   28 mEq/L
   5.1 mEq/L
   40 mg/dL
   102 mEq/L
   136 mEq/L
   32.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2196-11-13**]  05:20 PM
                             [**2196-11-13**]  07:38 PM
                             [**2196-11-13**]  09:30 PM
                             [**2196-11-14**]  04:37 AM
                            [**2196-11-15**]  04:36 AM
                            [**2196-11-16**]  04:38 AM
   WBC
   11.4
   10.9
   11.6
   12.3
   Hct
   34.1
   32.0
   34.8
   32.3
   Plt
   455
   420
   424
   411
   Cr
   1.9
   1.9
   2.1
   TCO2
   36
   33
   Glucose
   131
   107
   131
   Other labs: PT / PTT / INR:14.8/36.3/1.3, Amylase / Lipase:39/9,
   Differential-Neuts:84.7 %, Lymph:4.4 %, Mono:7.8 %, Eos:2.9 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
  DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY:  Adjust IV heparin
   given subtherapeutic PTT.
 ACUTE ON CHRONIC RENAL FAILURE:  Worsening Cr, up to 2.1 today in
   setting of large volume plueral fluid removal after pigtail catheter,
   transient hypotension.  Likely intravascular depletion given fluid
   shifts.  Holding antihypertensives.
 HYPOTENSION:  Fluid shifts, intravascular depletion.  Responsive to
   IVF boluses.  Need to match I/Os.  Surveillance cultures given elevated
   WBC but suspicion for infection is low.
 PLEURAL EFFUSION, CHYLOUS:  Pigtail catheter in place.  STill
   draining large volume.  Folllow up on cytology. Wean oxygen as
   tolerated.
   Otherwise agree with assessment and plan as per medical ICU housestaff
   note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-11-14**] 11:56 AM
   18 Gauge - [**2196-11-16**] 08:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2196-11-16 14:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2196-11-15**] 10:21 AM\
 ULTRASOUND - At [**2196-11-15**] 04:14 PM
   renal ultrasound
   -Underwent pigtail catheter placement, 2L came out.  Sent to cytology.
   CXR shows improvement of R pleural effusion
   -The patient still tachypneic and requiring 6L NC, and was hypotensive
   O/N so decision was made to keep him in [**Hospital Unit Name 10**] overnight.
   -Renal U/S with Doppler done
   -PTT very erratic on Heparin gtt.  Went from PTT 150 to
   subtherapautic.  Now getting bolus [**2187**], then 1100.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2196-11-14**] 01:23 AM
   Vancomycin - [**2196-11-14**] 08:42 AM
   Ciprofloxacin - [**2196-11-14**] 05:54 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-16**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 99 (85 - 110) bpm
   BP: 73/50(56) {73/50(56) - 117/78(86)} mmHg
   RR: 22 (14 - 39) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 91 kg
   Height: 68 Inch
             Total In:
                                                                    704 mL
                                                                    777 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                    704 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                    499 mL
   Urine:
                                                                    695 mL
                                                                     99 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,131 mL
                                                                    278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   GENERAL: Awake, alert, no respiratory distress.  Able to speak full
   sentences.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**]
   LUNGS: Decreased breath sounds at bases.
   ABDOMEN: large ventral hernia, multiple large other hernias. NT, ND.
   +bs.
   EXTREMITIES: 2+ LLE edema. Trace to 1+ RLE edema.
   GU: very large scrotal hernia and scrotal edema
   SKIN: erythematous macular rash on abdomen and back, improved from
   yesterday.
   NEURO: A&Ox3.
   Labs / Radiology
   411 K/uL
   10.5 g/dL
   131 mg/dL
   2.1 mg/dL
   28 mEq/L
   5.1 mEq/L
   40 mg/dL
   102 mEq/L
   136 mEq/L
   32.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2196-11-13**]  05:20 PM
                             [**2196-11-13**]  07:38 PM
                             [**2196-11-13**]  09:30 PM
                             [**2196-11-14**]  04:37 AM
                            [**2196-11-15**]  04:36 AM
                            [**2196-11-16**]  04:38 AM
   WBC
   11.4
   10.9
   11.6
   12.3
   Hct
   34.1
   32.0
   34.8
   32.3
   Plt
   455
   420
   424
   411
   Cr
   1.9
   1.9
   2.1
   TCO2
   36
   33
   Glucose
   131
   107
   131
   Other labs: PT / PTT / INR:14.8/36.3/1.3, Amylase / Lipase:39/9,
   Differential-Neuts:84.7 %, Lymph:4.4 %, Mono:7.8 %, Eos:2.9 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   IMAGING: Renal Doppler U/S
 normal right kidney, left kidney poorly
   visualized, but flow appears wnl- no evidence of stones,
   hydronephrosis, masses
   PLEURAL FLUID: Protein 3.5 LDH 116 [**Doctor First Name 92**] 28 Alb 2.0 WBC 1000 RBC 9333
   Polys 19% Lymphs 55% Monos 15% Eos 1% Meso 10%.
   Assessment and Plan
   ASSESSMENT AND PLAN:  Mr. [**Known lastname **] is a 78 yo male w/ pulmonary
   asbestosis, chylous pleural effusions likely [**2-8**] retroperitoneal
   fibrosis, DVT, a fib, and hypotension, s/p  pigtail catheter placement
   for drainage of chylous pleural exudate.
   1. CHYLOUS PLEURAL EFFUSION: Ex Etiology unclear; could be [**2-8**] RP
   fibrosis and lymphatic obstruction, but infection, malignancy and
   trauma cannot be excluded. Level of lymphatic obstruction is likely
   below 5^th thoracic vertebrae given right-sided location of effusion.
   Effusion is exudative given light
s criteria (and gross examination of
   opaque, milky fluid!)  Pt now s/p placement of pigtail catheter day 1,
   with marked improvement in R-sided pleural effusion on CXR. He is off
   all abx as unlikely infx source, no evidence PNA and d/t derm recs as
   abx could be contributing to possible drug rash.
   -follow up pleural fluid cytology, flow cytology, culture
   -f/u culture results
   -encourage incentive spirometry
   - GI recs consider MRI pancreas once ARF improved
   - need formal GI c/s as unclear if fluid from peritoneum or pleural
   area (on imaging)
   - daily weights
   2. HYPOTENSION likely related to post-procedural fluid shifts. No
   evidence PTX Hct stable.  Low suspicion for sepsis.
   -ensure 2 large bore peripherals; trend Hct, maintain active T+S
   -holding home rate control/BP meds
   -send BCx, Ucx for possible sources of sepsis
   - bp is fluid responsive so will bolus w/ 500cc NS q3h
   -maintenance NS @200cc/hr, goal euvolemic (pt was -3L over 24h)
   3. ACUTE ON CHRONIC RENAL FAILURE- as pt was hypotensive O/N and Cr
   worsening today to 2.1 from 1.9, could be [**2-8**] hypoperfusion. FeNA c/w
   pre-renal etiology . Renal U/S shows no evidence of renal pathology, no
   hydronephrosis or masses. Bladder pressure was WNL.
   - Appreciate Renal c/s
   - fluid likely will re-accumulate
   - f/u renal recs
   - trend Cr, avoid nephrotoxins, renally dose meds
   4. ATRIAL FIBRILLATION- continuing heparin gtt. Continue to hold
   diltiazem and metoprolol as hypotensive.
   5. DVT: restarted heparin gtt, currently supratherapeutic, re-adjusted
   heparin SS
   -follow PTT and dose heparin appropriatel
   6. RASH- could be [**2-8**] drug rxn, appreciate derm c/s- ct hydrocortisone
   ointment, sarna
   ICU Care
   Nutrition: high protein and low fat diet with medium chain TG
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-11-13**] 05:20 PM
   20 Gauge - [**2196-11-13**] 09:30 PM
   Prophylaxis:
   DVT: hep gtt started
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  -HCP is wife [**Telephone/Fax (1) 9194**] (cell),
   [**Telephone/Fax (1) 9195**]
   -spoke with daughter [**Name (NI) 1271**] tonight [**Telephone/Fax (1) 9196**] (cell) and [**Telephone/Fax (1) 9197**]
   (home)
   Code status: FULL CODE confirmed with patient
   Disposition: Likely call out to floor

2196-11-18 02:18:00 Physician Attending Progress Note
Chief Complaint: Tachycardia, AFib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient left the ICU on [**11-16**] following drainage of chylous effusion.
   Had experienced intermittent hypotension, generally fluid responsive.
   Since transfer to the floor, patient's BP had been low and nodal
   blockers were held. Tonight, developed afib with rapid ventricular
   response and hypotension unresponsive to fluids. Patient was
   asymptomatic. Denied chest pain, SOB, dizziness. Transferred to MICU.
   Started on a diltiazem infusion after 15 mg IV bolus.
   24 Hour Events:
 BLOOD CULTURED - At [**2196-11-16**] 12:32 PM
 URINE CULTURE - At [**2196-11-16**] 12:32 PM
   PH:
   Asbestosis
   Retroperitoneal fibrosis
   Chylous pleural effusions
   Acute renal failure
   Inguinal hernia
   Ventral hernia
   Cellulitis
   DVT
   Meds: octreotide, bronchodilators, simvastatin, PPI,triamcinolone,
   heparin IV
   Non smoker, non drinker.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-18**] 02:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 139 (134 - 139) bpm
   BP: 87/66(70) {87/54(63) - 104/66(70)} mmHg
   RR: 31 (31 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91.5 kg (admission): 91 kg
   Height: 68 Inch
             Total In:
                                                                    525 mL
                                                                  1,083 mL
   PO:
             TF:
   IVF:
                                                                    525 mL
                                                                  1,083 mL
   Blood products:
   Total out:
                                                                    352 mL
                                                                      0 mL
   Urine:
                                                                    202 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                  1,083 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Possible soft gallop; difficult to determine given
   rapid, irregular heart rate
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Dullness : Left base), (Breath Sounds: No(t)
   Clear : , Crackles : Coarse diffusely, No(t) Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, Large ventral and inquinal hernias
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, Rash: Abdomen, legs, red,  patchy
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   411 K/uL
   131 mg/dL
   2.1 mg/dL
   28 mEq/L
   5.1 mEq/L
   40 mg/dL
   102 mEq/L
   136 mEq/L
   32.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2196-11-13**]  05:20 PM
                             [**2196-11-13**]  07:38 PM
                             [**2196-11-13**]  09:30 PM
                             [**2196-11-14**]  04:37 AM
                            [**2196-11-15**]  04:36 AM
                            [**2196-11-16**]  04:38 AM
   WBC
   11.4
   10.9
   11.6
   12.3
   Hct
   34.1
   32.0
   34.8
   32.3
   Plt
   455
   420
   424
   411
   Cr
   1.9
   1.9
   2.1
   TCO2
   36
   33
   Glucose
   131
   107
   131
   Other labs: PT / PTT / INR:14.8/72.3/1.3, Amylase / Lipase:39/9,
   Differential-Neuts:84.7 %, Lymph:4.4 %, Mono:7.8 %, Eos:2.9 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR: [**2196-11-15**] - left greater than right effusion with
   increased bilateral interstitial markings.
   CT: large hiatal hernia. Large right effusion
   Microbiology: C diff negative
   Ascites - negative
   ECG: Afib; nonspecific ST changes.
   Assessment and Plan
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 .H/O HYPOXEMIA
 .H/O CELLULITIS
 .H/O ASCITES
   ATRIAL FIBRILLATION/TACHYCARDIA
   PLEURAL EFFUSIONS
   ACUTE RENAL FAILURE
   ANEMIA
   ============================
   Patient with chronic PAF. Went into afib with rapid ventricular
   response, probably due to removal of nodal agents. On diltiazem
   infusion now as oral agents restarted. If failure to respond, consider
   starting amiodarone. No evidence of acute PE. No evidence of acute
   ischemia. No recent fever. No evidence of pericarditis. Check TSH.
   Pleural effusions stable; has pigtail catheter in place. Concern about
   protein malnutrition given large drainage of chylous effusion. Continue
   high protein diet. Serum albumin only mildly reduced when last checked.
   Renal funciton improving. Electrolytes acceptable.
   Hct stable. No evidence for active bleeding. Not at transfusion
   threshold.
   Rash persists; this does not appear to be cellulitis. Concern for drug
   rash from prior antibiotics.
   Continue heparin for PAF.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not appolicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2196-11-18 09:57:00 Physician Attending Progress Note
Chief Complaint: atrial fibrillation, RVR and hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Restarted on nodal blockade overnight
   Now afib, rate controlled on IV dilt boluses then initiation of IV
   diltiazem drip.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Metoprolol - [**2196-11-18**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-11-18**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 82 (63 - 139) bpm
   BP: 112/62(73) {87/53(63) - 112/67(73)} mmHg
   RR: 26 (21 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.5 kg (admission): 91 kg
   Height: 68 Inch
             Total In:
                                                                    525 mL
                                                                  3,282 mL
   PO:
             150 mL
   TF:
   IVF:
                                                                    525 mL
                                                                  3,132 mL
   Blood products:
   Total out:
                                                                    352 mL
                                                                    265 mL
   Urine:
                                                                    202 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                  3,017 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered, Diminished:
   right [**1-8**] way up)
   Abdominal: Soft, Bowel sounds present, ventral/inguinal hernias
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Rash: more confluent over thighs and flanks
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   442 K/uL
   117 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.7 mEq/L
   36 mg/dL
   111 mEq/L
   143 mEq/L
   34.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2196-11-13**]  05:20 PM
                             [**2196-11-13**]  07:38 PM
                             [**2196-11-13**]  09:30 PM
                             [**2196-11-14**]  04:37 AM
                            [**2196-11-15**]  04:36 AM
                            [**2196-11-16**]  04:38 AM
                            [**2196-11-18**]  03:50 AM
   WBC
   11.4
   10.9
   11.6
   12.3
   10.2
   Hct
   34.1
   32.0
   34.8
   32.3
   34.8
   Plt
   455
   420
   424
   411
   442
   Cr
   1.9
   1.9
   2.1
   1.7
   TCO2
   36
   33
   Glucose
   131
   107
   131
   117
   Other labs: PT / PTT / INR:15.0/102.0/1.3, Amylase / Lipase:39/9,
   Differential-Neuts:84.7 %, Lymph:4.4 %, Mono:7.8 %, Eos:2.9 %, Lactic
   Acid:1.4 mmol/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB):  Poor rate control given nodal blockade
   held on the medical floor in setting of borderline blood pressures.
   Continues on the diltiazem drip, transition to oral meds and if his
   rate remains stable will be okay to go back to the medical floor later
   today.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY: Supratherapeutic PTT,
   adjust heparin accordingly.
  HYPOXEMIA: Oxygen to maintain saturations >93%.
  HYPOTENSION:  Multifactorial in setting of high losses, poor po
   intake, low albumin.  Will benefit from rate control and maintain
   adequate intravascular repletion.  Enhancing nutrition will be
   important in this context.
  CHYLOUS PLEURAL EFFUSION:  Chest tube in place, continues to put out
   large volumes.  Matching output with IVF given persistent poor po
   intake.  Continues on octreotide.
  ACUTE ON CHRONIC RENAL FAILURE:  Cr improving with fluid
   replacement.  Good urine output.
 NUTRITION:  PICC line placed, anticipating starting TPN today if CXR
   confirms this is in good position.
  RASH:  Most suggestive of drug eruption, ?abx earlier in his
   course.  Continue topical cream.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-11-17**] 11:00 PM
   20 Gauge - [**2196-11-17**] 11:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes